US04882339
A solution of 9.0 g of 4-(cyclohexylamino)-1,2-naphthoquinone in 200 ml of dimethyl sulfate and 460 ml of 30% aqueous sodium hydroxide is heated slowly to reflux. The reaction mixture is stirred for 6 hours, washed with 300 ml of water and dried at 80° C. under vacuo to yield 4-cyclohexylimino-1-oxo-2-methoxy-1,4-dihydronaphthalene, m.p. 145°-147° C.

reactant | 4-(cyclohexylamino)-1,2-naphthoquinone | 9.0 g | C1(CCCCC1)NC1=CC(C(C2=CC=CC=C12)=O)=O | C16H17NO2
reactant | dimethyl sulfate | 200 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | sodium hydroxide | 460 ml | [OH-].[Na+]
product | 4-cyclohexylimino-1-oxo-2-methoxy-1,4-dihydronaphthalene | C1(CCCCC1)N=C1C=C(C(C2=CC=CC=C12)=O)OC | C17H19NO2
